US04478828
Glu-Asp-Ser-Ser-Ser-Thr-Gly-Trp-Asn-OH
850 mg (6.9 mmols) Glu-Asp(OBut)-Ser(But)-Ser(But)-Ser(But)-Thr(But)-Gly-Trp-Asn-OBut are dissolved in a mixture of trifluoroacetic acid, water and 1,2-dimercaptoethane (9:1:1). The batch is abandoned for 1 hour at room temperature, concentrated, and the residue is triturated with ether. Yield 650 mg. For purification, the substance is boiled in 30 ml of methanol, and after cooling to room temperature it is suction-filtered. Yield 430 mg (65%). Amino acid analysis (hydrolysis: 24 hours at 120° C. in 6N HCl):

reactant | Glu-Asp(OBut)-Ser(But)-Ser(But)-Ser(But)-Thr(But)-Gly-Trp-Asn-OBut | 6.9 mmols, 850 mg | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C63H103N11O19
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
solvent | 1,2-dimercaptoethane | SCCS | C2H6S2
product | Glu-Asp-Ser-Ser-Ser-Thr-Gly-Trp-Asn-OH | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)O | C39H55N11O19
